US07279575B2
N-[4-(4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-yl)pyrimidin-2-yl]benzamide
To a solution of 2-(2-Benzoylamino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester in THF was added HCl 4N in dioxane and the reaction was left under stirring at room temperature for 2h. Solvent evaporation gave the desired product as a solid.

reactant | 2-(2-Benzoylamino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)NC(=C2)C2=NC(=NC=C2)NC(C2=CC=CC=C2)=O)=O | C23H23N5O4
reactant | HCl | 4N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[4-(4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-yl)pyrimidin-2-yl]benzamide | O=C1NCCC2=C1C=C(N2)C2=NC(=NC=C2)NC(C2=CC=CC=C2)=O | C18H15N5O2
